### PR TITLE
material on (semantic) signatures and monoidal categories

### PR DESCRIPTION
**Pull request by rmatthes**
This is the descendant of PR #1217 whose underlying branch got damaged.

I repeat the beginning of the description from there:
All of this is currently only preparatory work. The commits of April 18 are of hygienic nature. The commit of April 19 provides auxiliary results for all monoidal categories. The commit of April 22 stresses that (semantic) signatures need not refer to endofunctors (neither be higher-order endofunctors nor work on endofunctors). 

Now the current PR:
In the first commit of April 25 I do the straightforward proof that by fixing an object of a bicategory, the endomorphisms constitute a monoidal category. This is still inefficient, but I got good feedback from @benediktahrens and @mortberg.

The commit on endofunctors is done differently than on April 24: the endofunctors for a given category give rise to a monoidal category, and this is now placed in a separate file while the original file used
in SubstitutionSystems is only named more modestly.

The PR is anyway not yet a sufficient contribution on signatures - as it will be meant to be.

So, currently, I am not asking for pulling or help, but I keep you informed about the progress this way.

### CODE REVIEW

**Comment by rmatthes** [comment]
Please consider merging this PR:
- the inefficiency is gone thanks to @mortberg 
- there is some material considered as infrastructure for all work on category theory
- already over 10% of all files are touched
- I'll probably not have the time so soon to go much further mathematically

**Comment by rmatthes** [comment]
I also finished my "homework" on the recently added proofs of mine concerning swapping of the arguments of the tensor and the endofunctors. All suggestions of my colleagues are thus implemented.

**Comment by DanGrayson** [comment]
lgtm

**Comment by benediktahrens** [comment]
I am trying to fix the conflicts now...

**Comment by mortberg** [comment]
LGTM

File: UniMath/Algebra/GroupAction.v [hunk 1]
```diff
@@ -78,7 +78,7 @@ Proof.
   revert X Y p; intros [X [Xm [Xu Xa]]] [Y [Ym [Yu Ya]]] ? .
   (* should just apply hPropUnivalence at this point, as in Poset_univalence_prelim! *)
   simpl in p. destruct p; simpl. unfold transportf; simpl. unfold idfun; simpl.
-  use weqpair.
```
Comment (rmatthes) [inline UniMath/Algebra/GroupAction.v]: why not use "use", such as `use make_weq` ?

File: UniMath/CategoryTheory/CategoricalRecursionSchemes.v [hunk 2]
```diff
@@ -577,6 +581,9 @@ Defined.
 
 Lemma is_functor_lifting_from_distr_law_data {C D: precategory} (hsC: has_homsets C) (hsD: has_homsets D) {F: functor C C} {G: functor D D} {H: functor C D} (lambda : DistrLaw G F H H): is_functor (lifting_from_distr_law_data hsC hsD lambda).
 Proof.
+  set (HH_data := lifting_from_distr_law_data hsC hsD lambda).
```
Comment (rmatthes) [inline UniMath/CategoryTheory/CategoricalRecursionSchemes.v]: why this abbreviation `HH_data` that is not used later?

File: UniMath/CategoryTheory/CommaCategories.v [hunk 3]
```diff
@@ -228,7 +228,7 @@ Defined.
 Definition comma_cat_comp : ∏ uvf xyg zwh : comma_cat_ob, comma_cat_mor uvf xyg → comma_cat_mor xyg zwh → comma_cat_mor uvf zwh.
 Proof.
   intros uvf xyg zwh ijp klq.
-  exists (dirprodpair (pr1 (pr1 ijp) · pr1 (pr1 klq)) (pr2 (pr1 ijp) · pr2 (pr1 klq))).
+  exists (make_dirprod (pr1 (pr1 ijp) · pr1 (pr1 klq)) (pr2 (pr1 ijp) · pr2 (pr1 klq))). cbn.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/CommaCategories.v]: better no `cbn` outside of `abstract`

File: UniMath/SubstitutionSystems/BindingSigToMonad.v [hunk 4]
```diff
@@ -140,9 +140,9 @@ Qed.
 Context (BPC : BinProducts C) (BCC : BinCoproducts C).
 
 (** [nat] to a Signature *)
-Definition Arity_to_Signature (TC : Terminal C) (xs : list nat) : Signature C hsC C hsC C hsC :=
-  foldr1 (BinProduct_of_Signatures _ _ _ _ _ _ BPC)
-         (ConstConstSignature (category_pair C hsC) (category_pair C hsC) (category_pair C hsC) (TerminalObject TC))
+Definition Arity_to_Signature (TC : Terminal C) (xs : list nat) : Signature C hsC C hsC :=
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/BindingSigToMonad.v]: I am surprised that `Signature` has one argument pair `C hsC` less than in my PR.

File: UniMath/SubstitutionSystems/Notation.v [hunk 5]
```diff
@@ -52,8 +52,8 @@ Notation "Z ∘ α" := (post_whisker α Z) : subsys.
 
 Notation "` T" := (alg_carrier _ T) (at level 3, format "` T") : subsys.
 Notation "α •• Z" :=  (# (pre_composition_functor_data _ _ _ _ _ Z) α) (at level 25) : subsys.
-Notation "A ⊗ B" := (precatbinprodpair A B) : subsys.
-Notation "A ⊠ B" := (precategory_binproduct A B) (at level 38) : subsys.
+Notation "A ⊗ B" := (make_precatbinprod A B) : subsys.
+Notation "A 'XX' B" := (precategory_binproduct A B) (at level 2) : subsys.
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/Notation.v]: the notation XX should not be use in 2019!

File: UniMath/SubstitutionSystems/SignatureCategory.v [hunk 6]
```diff
@@ -243,7 +243,7 @@ Local Lemma isBinProduct_Signature_precategory (Ht1 Ht2 : Signature C hsC D hsD
                    (BinProduct_of_Signatures C hsC D hsD D' hsD' BD Ht1 Ht2)
                    (Signature_precategory_pr1 Ht1 Ht2) (Signature_precategory_pr2 Ht1 Ht2).
 Proof.
-apply (mk_isBinProduct _ (has_homsets_Signature_precategory C D D')).
+apply (make_isBinProduct _ (has_homsets_Signature_precategory C D)).
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/SignatureCategory.v]: where is the argument `D'`?

File: UniMath/SubstitutionSystems/SignatureCategory.v [hunk 7]
```diff
@@ -321,7 +321,7 @@ Local Lemma isCoproduct_Signature_precategory (Hti : I → Signature_precategory
   isCoproduct I (Signature_precategory C D D') _
     (Sum_of_Signatures I C hsC D hsD D' hsD' CD Hti) (Signature_precategory_in Hti).
 Proof.
-apply (mk_isCoproduct _ _ (has_homsets_Signature_precategory C D D')); simpl.
+apply (make_isCoproduct _ _ (has_homsets_Signature_precategory C D)); simpl.
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/SignatureCategory.v]: again `D'` missing

**Comment by benediktahrens** [comment]
Thanks for these comments. I am in the process of fixing the branch, and 
your comments will be very helpful!

**Comment by rmatthes** [comment]
I'll try to fix the branch.

**Comment by rmatthes** [comment]
I should say: I could try to fix the branch if you let me.

**Comment by benediktahrens** [comment]
On 26/04/2019 16:15, Ralph Matthes wrote:
> I should say: I could try to fix the branch if you let me.

Well, I have been working on the fix for a while now. How about you let 
me finish, and then check my proposed fix?

File: UniMath/CategoryTheory/CategoricalRecursionSchemes.v [hunk 8]
```diff
@@ -524,6 +526,8 @@ Defined.
 
 Definition lifting_from_distr_law_data_on_ob {C D: precategory} (hsC: has_homsets C) (hsD: has_homsets D) {F: functor C C} {G: functor D D} {H: functor C D} (lambda : DistrLaw G F H H): FunctorAlg F hsC → FunctorAlg G hsD.
 Proof.
+  use make_functor_data.
+  simpl.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/CategoricalRecursionSchemes.v]: better no `simpl` - if need be then `cbn`

File: UniMath/SubstitutionSystems/BindingSigToMonad.v [hunk 9]
```diff
@@ -140,9 +140,9 @@ Qed.
...
+  foldr1 (BinProduct_of_Signatures _ _ _ _ BPC)
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/BindingSigToMonad.v]: two more underscores needed

File: UniMath/SubstitutionSystems/Notation.v (hunk 5 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/Notation.v]: please keep the level at 38 that is used elsewhere for the symbol ⊠

File: UniMath/SubstitutionSystems/SignatureCategory.v [hunk 10]
```diff
@@ -260,8 +260,8 @@ Defined.
 Lemma BinProducts_Signature_precategory : BinProducts (Signature_precategory C D D').
 Proof.
 intros Ht1 Ht2.
-use mk_BinProduct.
-- apply (BinProduct_of_Signatures _ _ _ _ _ _ BD Ht1 Ht2).
+use make_BinProduct.
+- apply (BinProduct_of_Signatures _ _ _ _ BD Ht1 Ht2).
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/SignatureCategory.v]: two underscores missing

File: UniMath/SubstitutionSystems/SignatureCategory.v [hunk 11]
```diff
@@ -337,8 +337,8 @@ Defined.
 Lemma Coproducts_Signature_precategory : Coproducts I (Signature_precategory C D D').
 Proof.
 intros Ht.
-use mk_Coproduct.
-- apply (Sum_of_Signatures I _ _ _ _ _ _ CD Ht).
+use make_Coproduct.
+- apply (Sum_of_Signatures I _ _ _ _ CD Ht).
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/SignatureCategory.v]: two underscores missing

File: UniMath/SubstitutionSystems/Signatures.v [hunk 12]
```diff
@@ -269,7 +269,7 @@ Lemma θ_nat_2 (X : [C, D', hsD']) (Z Z' : Ptd) (f : Z --> Z')
        θ (X ⊗ Z) · # H (identity X ∙∙ pr1 f).
 Proof.
   set (t := nat_trans_ax θ).
-  set (t' := t (X ⊗ Z) (X ⊗ Z') (precatbinprodmor (identity _ ) f)).
+  set (t' := t (make_precatbinprod X Z) (make_precatbinprod X Z') (precatbinprodmor (identity _ ) f)).
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/Signatures.v]: why not the symbol ⊗?

**Comment by rmatthes** [comment]
@benediktahrens : Thanks a lot for fixing all these conflicts. I went through the whole PR and found no anomaly. Hence, the "make revolution" did no harm to my PR (only needed extra time).
